* RSQ020N03 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/05/11
******************D G S
.SUBCKT RSQ020N03 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 63.9m
D2       22 11 DDG
R2        2 22 16
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=10.825E-6
+ RS=10.000E-3
+ RD=0
+ VTO=1.9092
+ RDS=30.000E6
+ TOX=2.0000E-6
+ CGSO=53p
+ CGDO=7p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=1
+ ETA=0.001
+ KAPPA=0
+ NFS=30G
.MODEL DDS D
+ IS=3.4693E-12
+ N=1.1619
+ RS=17.966E-3
+ IKF=.56156
+ CJO=37.073E-12
+ M=.29685
+ VJ=.96111
+ BV=30
+ TT=22n
.MODEL DDG D
+ CJO=72.555E-12
+ M=.58341
+ VJ=.75473
+ N=10000
+ FC=-0.2
.MODEL RTH RES
+ TC1=0.0045
+ TC2=0.000015
.ENDS RSQ020N03
